US04855445
Step (5) Preparation of (Z)-1-Ethyl-8-(1-propenyl)-1,3,4,9-tetrahydropyrano[3,4-b]indole -1-acetic Acid
(Z)-1-Ethyl-8-(1-propenyl)-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid, methyl ester (1.01 g, 3.2 mmol) was dissolved in a mixture of 11.2 mL of ethanol and 11.2 mL of 10% aqueous sodium hydroxide, and the solution was heated under reflux for 3 hours. The reaction mixture was then concentrated to dryness, and a mixture of 13.4 mL of ether and 13.4 mL of 10% aqueous sodium hydroxide was added to the residue. The layers were separated, and the aqueous layer was acidified with concentrated hydrochloric acid and extracted with ether (2×25 mL). The combined ether extracts were dried over anhydrous magnesium sulfate, filtered and concentrated to give 897 mg of the crude product. This material was purified by flash chromatography (20% ethyl acetate/hexane, H3PO4 treated silica gel) to give the desired product as a colorless oil which partially solidified upon standing. Trituration with petroleum ether provided 440 mg of an off-white solid, m.p. 89.5°-93.5° C.

reactant | (Z)-1-Ethyl-8-(1-propenyl)-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid, methyl ester | 3.2 mmol, 1.01 g | C(C)C1(OCCC2=C1NC1=C(C=CC=C21)\C=C/C)CC(=O)OC | C19H23NO3
solvent | ethanol | 11.2 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 11.2 mL | [OH-].[Na+]
product | (Z)-1-Ethyl-8-(1-propenyl)-1,3,4,9-tetrahydropyrano[3,4-b]indole -1-acetic Acid | C(C)C1(OCCC2=C1NC1=C(C=CC=C21)\C=C/C)CC(=O)O | C18H21NO3
